US07501538B2
(S)-2-Tert-butoxycarbonylamino-3-[4-(4-tert-butyl-benzyloxy)-phenyl]-propionic acid methyl ester (290 mg) was prepared from (S)-2-tert-butoxycarbonylamino-3-(4-hydroxy-phenyl)-propionic acid methyl ester (425 mg, 1.4 mmol) and 4-tert-butylbenzyl bromide (1.6 mmol) with K2CO3 (398 mg, 2.9 mmol) as described in Procedure H and purified over silica gel (8:2, DCM-hexanes).

reactant | (S)-2-tert-butoxycarbonylamino-3-(4-hydroxy-phenyl)-propionic acid methyl ester | 1.4 mmol, 425 mg | COC([C@H](CC1=CC=C(C=C1)O)NC(=O)OC(C)(C)C)=O | C15H21NO5
reactant | 4-tert-butylbenzyl bromide | 1.6 mmol | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
reactant | K2CO3 | 2.9 mmol, 398 mg | C(=O)([O-])[O-].[K+].[K+]
product | (S)-2-Tert-butoxycarbonylamino-3-[4-(4-tert-butyl-benzyloxy)-phenyl]-propionic acid methyl ester | 290 mg | COC([C@H](CC1=CC=C(C=C1)OCC1=CC=C(C=C1)C(C)(C)C)NC(=O)OC(C)(C)C)=O | C26H35NO5
